US04001426
3-(4'-Chlorobenzoyl)-2-[4'-(3-diethylaminopropoxy)phenyl]-benzofuran
When 3-p-chlorobenzoyl-2-p-hydroxyphenylbenzofuran was reacted with 3-diethylaminopropyl chloride by the procedure of Example 1, the title compound was obtained.

reactant | 3-p-chlorobenzoyl-2-p-hydroxyphenylbenzofuran | ClC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)O)C=C1 | C21H13ClO3
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 3-(4'-Chlorobenzoyl)-2-[4'-(3-diethylaminopropoxy)phenyl]-benzofuran | ClC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)OCCCN(CC)CC)C=C1 | C28H28ClNO3
